US04435405
Sodium hydride (0.96 g. of a 50% w/w dispersion in mineral oil) was added to a solution of 3-phenylquinolin-2-thione (2.37 g.) in dimethylformamide (100 ml.) at ambient temperature. When all the hydrogen had evolved, 2-chloromethyl-1-methylpiperidine hydrochloride (1.84 g.) was added and the mixture was stirred at ambient temperature for 16 hr. The mixture was then poured into water (750 ml.) and extracted with ethyl acetate (2×150 ml.). The ethyl acetate extract was washed with water (2×50 ml.) and then dried (MgSO4). The solvent was evaporated and the residue was chromatographed on basic alumina (150 g. Brockmann Grade III), eluted with increasing concentrations of chloroform in petroleum ether. The eluate obtained with 20% v/v chloroform in petroleum ether was evaporated. The residue was dissolved in diethyl ether (50 ml.) and ethereal hydrogen chloride was added until precipitation was complete. The solid was collected by filtration and crystallised from ethanol-diethyl ether to give 2-[(1-methyl-2-piperidylmethylthio]-3-phenylquinoline hydrochloride, m.p. 198°-200°.

reactant | Sodium hydride | [H-].[Na+]
reactant | 3-phenylquinolin-2-thione | 2.37 g | C1(=CC=CC=C1)C=1C(NC2=CC=CC=C2C1)=S | C15H11NS
reactant | hydrogen | [H][H] | H2
reactant | 2-chloromethyl-1-methylpiperidine hydrochloride | 1.84 g | Cl.ClCC1N(CCCC1)C
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
solvent | water | 750 ml | O | H2O
product | (1-methyl-2-piperidylmethylthio]-3-phenylquinoline hydrochloride | Cl.CN1C(CCCC1)CSC1=NC2=CC=CC=C2C=C1C1=CC=CC=C1 | InChI=1S/C22H24N2S.ClH/c1-24-14-8-7-12-19(24)16-25-22-20(17-9-3-2-4-10-17)15-18-11-5-6-13-21(18)23-22;/h2-6,9-11,13,15,19H,7-8,12,14,16H2,1H3;1H
